US07312249B2
e. Preparation of Dimethyl 4-[3-(3-methyl-4-hydroxyphenyl)propyl]phthalate
In a manner similar to Example 1f, by reacting 6.9 g (17.2 mmol) of dimethyl 4-[3-(4-ethoxymethoxy-3-methylphenyl)propyl]phthalate in 100 ml of methanol with 3 ml of concentrated sulphuric acid. A colorless oil is obtained (m=5.2 g; y=88%).

reactant | dimethyl 4-[3-(4-ethoxymethoxy-3-methylphenyl)propyl]phthalate | 17.2 mmol, 6.9 g | C(C)OCOC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)C | C23H28O6
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 100 ml | CO | CH4O
product | Dimethyl 4-[3-(3-methyl-4-hydroxyphenyl)propyl]phthalate | CC=1C=C(C=CC1O)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C20H22O5
